US06391874B1
(4-Benzyloxy-phenyl)-(6-(1H-tetrazol-5-yl)-quinazolin-4-yl)-amine
(4-Benzyloxy-phenyl)-(6-cyanoquinazolin-4-yl)-amine (0.106 g) in dimethylformamide was treated with sodium azide (0.06 g) and ammonium chloride (0.05 g) and the mixture stirred at 180° C. for 18 hours. The mixture was cooled, poured onto water and extracted with ethyl acetate/THF (3:1). The organic extracts were dried and concentrated in vacuo. The residue was purified using solid phase extraction to yield the title compound (0.024 g); δH [2H6]DMSO 10.18(1H,s), 9.25(1H,s), 8.55(1H,s), 8.40(1H,d), 7.88(1H,d), 7.74(2H,d), 7.45(6H,m), 7.07(2H,d), 5.17(1H,s), m/z (M+1)+396.

reactant | (4-Benzyloxy-phenyl)-(6-cyanoquinazolin-4-yl)-amine | 0.106 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C#N | C22H16N4O
reactant | sodium azide | 0.06 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.05 g | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (4-Benzyloxy-phenyl)-(6-(1H-tetrazol-5-yl)-quinazolin-4-yl)-amine | 0.024 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=NN=NN1 | C22H17N7O
